US06372759B1
Preparation of N1-(3-Bromoindol-6-ylcarbonyl)-N2-[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl-1,2-benzenediamine
Using the procedure described in Example 23, Part C, and purifying with preparative RPHPLC method A, N2-[1-(4-Pyridyl)-piperidin-4-yl]methoxycarbonyl-1,2-benzenediamine (326 mg, 1.0 mmol) and 3-bromoindole-6-carboxylic acid (240 mg, 1.0 mmol) yielded the title compound.

reactant | N2-[1-(4-Pyridyl)-piperidin-4-yl]methoxycarbonyl-1,2-benzenediamine | 1.0 mmol, 326 mg | N1=CC=C(C=C1)N1CCC(CC1)COC(=O)NC=1C(=CC=CC1)N | C18H22N4O2
reactant | 3-bromoindole-6-carboxylic acid | 1.0 mmol, 240 mg | BrC1=CNC2=CC(=CC=C12)C(=O)O | C9H6BrNO2
product | N1-(3-Bromoindol-6-ylcarbonyl)-N2-[1-(4-pyridyl)piperidin-4-yl]methoxycarbonyl-1,2-benzenediamine | BrC1=CNC2=CC(=CC=C12)C(=O)NC=1C(=CC=CC1)NC(=O)OCC1CCN(CC1)C1=CC=NC=C1 | C27H26BrN5O3
